US05843957
Preparation of N-[1-(4-pentynyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-(5-trimethylsilyl-4-pentynyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (81 mg, 0.133 mmol) in DMF (4 ml) was added potassium fluoride (138 mg, 2.38 mmol), and the mixture was stirred at room temperature for 7 hours. The mixture was poured into water, and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and purified by preparative thin layer chromatography to give the title compound (58 mg, 0.14 mmol).

reactant | N-[1-(5-trimethylsilyl-4-pentynyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.133 mmol, 81 mg | C[Si](C#CCCCN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O)(C)C | C36H44N4O3Si
reactant | potassium fluoride | 2.38 mmol, 138 mg | [F-].[K+]
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-[1-(4-pentynyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.14 mmol, 58 mg | C(CCC#C)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C33H36N4O3
